US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-4-ethyl-5-(2,3-difluorophenyl)-3-methoxy-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (9 eq), ethylene glycol/Et2O (1/5 v/v, 30 ml), 1-(1H-Benzo[d]imidazol-6-yl)-4-ethyl-5-(2,3-difluorophenyl)-3-hydroxy-1H-pyrrol-2(5H)-one (1.2 g, 2.81 mmol, 1 eq) and MeOH (10 ml), the product was further purified by preparative HPLC; yield: 0.085 g (8.2%); MS m/z: 370.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 1.01 (t, 3H), 1.94 (m, 1H), 2.39 (m, 1H), 3.96 (s, 3H), 6.24 (s, 1H), 7.12 (s, 1H), 7.55-7.26 (m, 3H), 7.67 (s, 1H), 8.17 (s, 1H), 12.43 (s, 1H); HPLC (METHOD [A]): rt 13.32 min (100%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 9 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 30 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-4-ethyl-5-(2,3-difluorophenyl)-3-hydroxy-1H-pyrrol-2(5H)-one | 2.81 mmol, 1.2 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)CC)O)=O | C19H15F2N3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-4-ethyl-5-(2,3-difluorophenyl)-3-methoxy-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)CC)OC)=O | C20H17F2N3O2
